Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Topiramate / Aripiprazole / Shellfish
 
Attending: ___.
 
Chief Complaint:
 Dark stools
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with history of EtOH cirrhosis s/p TIPS ___ 
and h/o upper GI bleed who presents with dark stools.
.
She was discharged from the hospital ___ after teeth extraction 
and took po dilaudid for pain. This wasn't treating her pain 
effectively and she started to drink again yesterday (had 5 
drinks). She then had one dark, maroon colored stool and came 
into the ED. She also describes intermittent RUQ pain which is 
crampy and occurs when she moves around, similar to many prior 
episodes. She also describes some vomiting 3 days ago without 
hematemesis after taking dilaudid. Had mild confusion the other 
day but denies any confusion now. Also dropped a bit of boiling 
water on her right breast and stomach the other day. Denies 
fever, other abdominal pain, diarrhea, constipation, increasing 
abdominal girth or lower extremity edema.
.
She was last admitted ___ to ___ due to tooth pain and 
for alcohol detox. She had her remaining 8 teeth extracted under 
general anesthesia on ___ due to concern for infection. She has 
a h/o large volume GI bleed in the past due to duodenal variceal 
bleed and then underwent TIPS in ___. Also had upper GIB in 
___ and esophageal varices were banded.
.
In the ED, initial VS were 98.6 72 124/72 16 100%. Had guaiac 
positive stool with flecks of red. Did RUQ ultrasound which has 
not been read yet. Admitted to liver service. 98.0 126/78 76 16 
100%RA. Will make sure she has 2 PIVs.
.
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, nausea, vomiting, diarrhea, constipation, 
hematochezia, dysuria, hematuria.
 
Past Medical History:
Alcoholic cirrhosis  
s/p cholecystectomy ___  
Gastroesophageal reflux disease
Bipolar disorder
Htn
Depression/anxiety
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
VS: 97.4 121/73 100 20 100%RA
GENERAL: Well-appearing female who smells of alcohol but in NAD, 
comfortable, appropriate.
HEENT: NC/AT, PERRLA, EOMI with horizontal nystagmus, sclerae 
anicteric, MMM, OP clear.
NECK: Supple, no thyromegaly, no JVD.
HEART: RRR, no MRG, nl S1-S2.
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored.
ABDOMEN: Soft/ND, mild TTP over RUQ, has some loose skin on her 
abdomen, no masses, no rebound/guarding.
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.
SKIN: Multiple spider angioma across body. With large right 
erythematous patch around right nipple where she states she had 
a burn wound.
NEURO: Awake, A&Ox3.
RECTAL: Guaiac positive, brown stool.
 
Pertinent Results:
CBC
___ 05:45AM BLOOD WBC-3.0* RBC-3.88* Hgb-9.4* Hct-28.8* 
MCV-74* MCH-24.2* MCHC-32.7 RDW-17.7* Plt ___
___ 01:45PM BLOOD WBC-3.0* RBC-3.78* Hgb-9.2* Hct-28.1* 
MCV-74* MCH-24.4* MCHC-32.7 RDW-18.0* Plt ___
___ 08:50AM BLOOD WBC-3.8* RBC-3.66* Hgb-9.0* Hct-27.9* 
MCV-76* MCH-24.7* MCHC-32.4 RDW-18.4* Plt ___
___ 08:55AM BLOOD Hypochr-3+ Anisocy-2+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-3+ Polychr-NORMAL

Coags
___ 01:50AM BLOOD ___ PTT-35.0 ___
___ 05:45AM BLOOD ___ PTT-37.7* ___
___ 08:50AM BLOOD ___ PTT-40.4* ___

CMP
___ 01:50AM BLOOD Glucose-96 UreaN-8 Creat-0.6 Na-136 K-3.9 
Cl-100 HCO3-22 AnGap-18
___ 01:45PM BLOOD Glucose-101* UreaN-7 Creat-0.5 Na-131* 
K-4.2 Cl-99 HCO3-27 AnGap-9
___ 08:50AM BLOOD UreaN-6 Creat-0.5 Na-137 K-4.0 Cl-103 
HCO3-29 AnGap-9
___ 08:50AM BLOOD Phos-5.0* Mg-1.5*

LFTs
___ 01:50AM BLOOD ALT-30 AST-59* AlkPhos-164* TotBili-1.1
___ 05:45AM BLOOD ALT-30 AST-55* LD(LDH)-145 AlkPhos-158* 
TotBili-1.1
___ 08:50AM BLOOD ALT-20 AST-35 AlkPhos-158* TotBili-0.8

TOX
___ 01:50AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IRON STUDIES
___ 05:00AM BLOOD calTIBC-378 Ferritn-8.5* TRF-291
.
___ ___ US
FINDINGS: The liver demonstrates nodular contour with coarse 
echotexture,
consistent with known history of cirrhosis. Again seen is a 
2.6-cm cyst with septation in the left hepatic lobe, unchanged 
since the prior study. A second solid lesion seen in the segment 
II of the liver, is not imaged in the current study. The patient 
is status post-cholecystectomy. There is no intrahepatic biliary 
dilatation. The common bile duct measures 7 mm. There is no free 
fluid.
 
Color Doppler and pulse Doppler images were obtained. The main 
portal vein
has normal hepatopetal flow. The TIPS shunt is patent and 
demonstrates
wall-to-wall flow. The flow velocities in the proximal, mid and 
distal portion of the TIPS are 122, 144, 149 cm/sec 
respectively. Flow in the left portal vein was directed towards 
the shunt.
 
IMPRESSION: Patent TIPS shunt with wall to wall flow. Expected 
hepatopedal
flow in the main and hepatofugal flow in the left portal vein. 
No ascites.

 
Brief Hospital Course:
Lower GI Bleed - Although stools were guiac positve in house, it 
was unlikely that she has had a significant GI bleed and she 
remained hemodyanmically stable throughout her hospitalization 
without additional episodes of melena or hematochezia. It was 
more likely that she may have slow, not hemodyanmically 
significant, oozing that presisted despite TIPS procedure. Liver 
ultrasound revealed patent TIPS with normal flow.  Received 1 U 
PRBC transfusion prior to discharge for a HCT of 23.8. 
*Should reassess CBC on follow up

Alcohol use: Patient continues to abuse alcohol, evidenced by 
her intoxicated presentation and BAL of 191 on admission. Social 
work was consulted to offer additional information about 
available services, although patient declined. She had no 
symptoms of withdrawal during this admission she was maintained 
on an oral MVI, thiamine and folate supplement.  Urged patient 
to continue alcohol cessation, although she claims she uses it 
for pain management as her pain is "poorly controlled".  Of 
note, refused Tyelenol in house for pain relief.   
*Assess for alcohol abstinence 

Alcoholic cirrhosis and hepatic encephalopathy: Her admission 
MELD was 6. She has no previous ascites on ultrasound, none was 
evident on admission. She did not appear to have decompensated 
cirrhosis. Her lactulose dose was titrated to achieve 3 bowel 
movements daily and she was continued on her home rifaximin 
dose. She was also continued on her home pantoprazole dose.
.
Pancytopenia: Likely from cirrhosis. All Levels were elevated on 
admission in the setting of hemoconcentration and normalized to 
her outpatient baseline following hydration.

TRANSITIONAL ISSUES:  Continues to drink alcohol.  Very tearful 
and emotional over necessity of taking lactulose.  Also 
unsatisfied with pain control for tooth pain, although 
procedures were over 2 weeks ago and should have minimal pain as 
appear well healed.  Refused Tyelonol in house and requested 
narcotics.  Held narcotics due to mental status changes that 
could occur.
PENDING LABS: None
 
Medications on Admission:
Rifaximin 550mg po bid
Pantoprazole 40mg po daily
Thiamine 100mg po daily
Folic acid 1mg po daily
Calcium carbonate 500mg po bid
MVI 1 tab po daily
Lactulose 30ml po qid
Furosemide 60mg po qam, 40mg po qpm
Spironolactone 150mg po bid
Lidocaine 2ml tid prn mouth pain
Hydromorphone 2mg po q3h prn pain
 
Discharge Medications:
1. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
3. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO BID (2 times a day).  
6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO every 
four (4) hours.
Disp:*qs ML(s)* Refills:*2*
8. Lasix 20 mg Tablet Sig: ___ Tablets PO once a day: take 3 
tablets every morning and 2 tablets every evening. Tablet(s) 
9. spironolactone 50 mg Tablet Sig: Three (3) Tablet PO twice a 
day.  
10. lidocaine HCl 2 % Solution Sig: Two (2) ML Mucous membrane 
TID (3 times a day) as needed for swish and spit.  
11. acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain: Do not exceed ___ mg a day 
(4 tablets).
Disp:*40 Tablet(s)* Refills:*0*
12. Outpatient Lab Work
Complete metabolic panel.  Please have data faxed to patient's 
PCP  (phone contact is ___.  Please call to obtain fax 
number)
13. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hepatic Encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital for dark stool. You were 
evaluated and treated by the medicine service. You were found to 
have no signs of a concerning GI bleed. You were also concerning 
about mental clouding. Your medications were adjusted to correct 
your mental clouding. Please take your medications as prescribed 
and keep your outpatient appointments. 
.
The following changes have been made to your home medications:
1. You have been STARTED on Morphine ___ 7.5 mg every six hours 
as needed for severe gum pain.
2. You have been STARTED on Tylenol ___ mg every six hours for 
control of gum pain.
3. Your Lactulose has been INCREASED to 30ml every four hours to 
achieve at least three bowel movements daily. 
4. Your Hydromorphone has been STOPPED.
.
No other changes have been made to your home medication.
 
Followup Instructions:
___